US07358364B2
Step 4: Preparation of Methyl-4-(4′-hydroxybiphen-4-yl)-4-oxo-2-(3-trifluoromethylbenzyl)butyrate.
A solution of 4-hydroxyphenylboronic acid (160 mg, 1.2 mmol) in MeOH (3 mL) was added to a stirred solution of methyl-4-(4-bromophenyl)-4-oxo-2-(3-trifluoromethyl-benzyl)butyrate (270 mg, 0.6 mmol) in toluene (10 mL). Tetrakis-(Triphenylphosphine)-palladium(0) (21 mg, 4 mol %) and 2 N sodium carbonate (0.75 mL, 1.5 mmol) were added and then the reaction was heated to 90° C. (oil bath temp.) for 4-5 h until complete (TLC control). The reaction mixture was cooled to room temperature, acidified to pH 3 with 0.5 N hydrochloric acid and partitioned between water and ethyl acetate. The phases were separated, the aqueous phase being further extracted with ethyl acetate (2×20 mL). The combined organic extracts were washed with water and sat'd aq NaCl, dried over anhyd MgSO4, filtered and concentrated. Trituration and filtration from MeOH afforded the title compound has a white solid (200 mg).

reactant | 4-hydroxyphenylboronic acid | 1.2 mmol, 160 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | methyl-4-(4-bromophenyl)-4-oxo-2-(3-trifluoromethyl-benzyl)butyrate | 0.6 mmol, 270 mg | COC(C(CC(=O)C1=CC=C(C=C1)Br)CC1=CC(=CC=C1)C(F)(F)F)=O | C19H16BrF3O3
reactant | sodium carbonate | 1.5 mmol, 2 N, 0.75 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis-(Triphenylphosphine)-palladium(0) | 21 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl-4-(4′-hydroxybiphen-4-yl)-4-oxo-2-(3-trifluoromethylbenzyl)butyrate | COC(C(CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O)CC1=CC(=CC=C1)C(F)(F)F)=O | C25H21F3O4
